US06683096B2
A. Preparation of 7-bromo-3-piperidin-4-yl-1H-indole
This compound was prepared following the procedure described in Example 1 (parts A and B) starting with 0.95 g (4.8 mmol) of 7-bromoindol and 1.89 g (12.3 mmol) of 4-piperidone monohydrate hydrochloride. After the usual work-up 1.1 g (89% of yield) of the desired product were obtained.

reactant | 7-bromoindol | 4.8 mmol, 0.95 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | 4-piperidone monohydrate hydrochloride | 12.3 mmol, 1.89 g | Cl.O.N1CCC(CC1)=O
product | 7-bromo-3-piperidin-4-yl-1H-indole | BrC=1C=CC=C2C(=CNC12)C1CCNCC1 | C13H15BrN2
